US05196147
Synthesis of 2-cyano-3-(3,4-dimethoxyphenyl)-2-propenoic acid (5)
To 150 ml of an aqueous solution of 9.19 g of sodium hydroxide, 20.50 g of methyl cyanoacetate was added and, under stirring, 25.38 g of 3,4-dimethoxybenzaldehyde was further added, followed by heating at 85° C. for 40 hours under stirring. After completion of the reaction, the reaction mixture was added to 50 ml of 12 N hydrochloric acid to recover the resultant solid. The solid was repeated twice to recrystallize from ethanol to obtain 19.84 g of the desired compound.

reactant | sodium hydroxide | 9.19 g | [OH-].[Na+]
reactant | methyl cyanoacetate | 20.50 g | C(#N)CC(=O)OC | C4H5NO2
reactant | 3,4-dimethoxybenzaldehyde | 25.38 g | COC=1C=C(C=O)C=CC1OC | C9H10O3
solvent | hydrochloric acid | 12 N, 50 ml | Cl | ClH
product | 2-cyano-3-(3,4-dimethoxyphenyl)-2-propenoic acid | 19.84 g | C(#N)C(C(=O)O)=CC1=CC(=C(C=C1)OC)OC | C12H11NO4
